US04504490
N-[2-(3-Acetylureido)-5-(3-trifluoromethylphenylsulfonyloxy)phenyl]-N',N"-bismethoxycarbonylguanidine (formula I)
14.6 g of 2-(3-acetylureido)-5-(3-trifluoromethylphenylsulfonyloxy)aniline, 12.4 g of N,N'-bismethoxycarbonyl-S-methylisothiourea and 75 mg of p-toluenesulfonic acid are stirred under reflux for two hours. After cooling down, the mixture is evaporated under reduced pressure, the residue is recrystallized from isopropanol and the crystals are stirred with cold ethyl acetate, filtered off with suction and washed, melting point 189° C., decomposition.

reactant | 2-(3-acetylureido)-5-(3-trifluoromethylphenylsulfonyloxy)aniline | 14.6 g | C(C)(=O)NC(NC1=C(N)C=C(C=C1)OS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O | C16H14F3N3O5S
reactant | N,N'-bismethoxycarbonyl-S-methylisothiourea | 12.4 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
reactant | p-toluenesulfonic acid | 75 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[2-(3-Acetylureido)-5-(3-trifluoromethylphenylsulfonyloxy)phenyl]-N',N"-bismethoxycarbonylguanidine | C(C)(=O)NC(NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)NC(=NC(=O)OC)NC(=O)OC)=O | C21H20F3N5O9S
